US07867629B2
Ten grams (36 mmol) of 2,4′-dibromo acetophenone and 4.0 g (37 mmol) of 1,2-phenylenediamine were refluxed under heating among 20 milliliter of ethanol for 3.5 hours. After completion of the reaction, resultant crystals were separated with filtration, washed with ethanol, thereby obtaining 4.2 g of 2-(4-bromo-phenyl)-quinoxaline (yield: 41%).

reactant | 2,4′-dibromo acetophenone | 36 mmol, Ten grams | BrCC(=O)C1=CC=C(C=C1)Br | C8H6Br2O
reactant | 1,2-phenylenediamine | 37 mmol, 4.0 g | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | ethanol | 20 milliliter | C(C)O | C2H6O
product | 2-(4-bromo-phenyl)-quinoxaline | 4.2 g, yield: 41% | BrC1=CC=C(C=C1)C1=NC2=CC=CC=C2N=C1 | C14H9BrN2
